US07674789B2
23a) 3-Fluoro-N-(3-iodo-4-methylphenyl)-4-methylbenzamide
A stirred suspension of 3-fluoro-4-methyl benzoic acid (1.15 g, 7.44 mmol) in CH2Cl2 (50 mL) and DMF (2 drops) was cooled to 0° C. under argon and treated with oxalyl chloride (0.71 mL, 8.18 mmol) dropwise. The mixture was warmed to r.t. and stirred for 1 h. In a separate flask, 3-iodo-4-methyl aniline (2.60 g, 11.16 mmol), K2CO3 (1.54 g, 8.93 mmol) and pyridine (4 drops) were suspended in CH2Cl2 (10 mL). The mixture was cooled to 0° C. under argon and the acid chloride reaction mixture was slowly added. Upon complete addition, the reaction mixture was allowed to warm to room temperature and stirred for 3 days. The resultant solid was filtered off and the reaction mixture was diluted with EtOAc. The organic phase was washed with water, brine, dried (Na2SO4), filtered and concentrated in vacuo. Diethyl ether was added and the impurities were filtered off, affording the title compound as a brown solid. 1H-NMR (400 MHz, d6-DMSO) δ: 10.24 (1H, s), 8.32 (1H, d), 7.77 (3H, m), 7.46 (1H, t), 7.32 (1H, t), 2.35 (3H, s), 2.32 (3H, s).

reactant | 3-fluoro-4-methyl benzoic acid | 7.44 mmol, 1.15 g | FC=1C=C(C(=O)O)C=CC1C | C8H7FO2
reactant | oxalyl chloride | 8.18 mmol, 0.71 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-iodo-4-methyl aniline | 11.16 mmol, 2.60 g | IC=1C=C(N)C=CC1C | C7H8IN
reactant | K2CO3 | 8.93 mmol, 1.54 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
catalyst | pyridine | 4 drops | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Fluoro-N-(3-iodo-4-methylphenyl)-4-methylbenzamide | FC=1C=C(C(=O)NC2=CC(=C(C=C2)C)I)C=CC1C | C15H13FINO
